US07718815B2
Ethyl 3-(2-phenylethyl)-2,3-dihydro-1-benzofuran-5-carboxylate
To a solution of ethyl 3-iodo-4-{[(2E)-4-phenyl-but-2-enyl]-oxy}benzoate (13.42 g, 31.73 mmol) and AIBN (0.52 g, 3.17 mmol) in benzene (900 ml) tributyltin hydride (12 ml, 44.43 mol) was added at room temperature and the reaction mixture was warmed to reflux. After 2 h, the solvent was eliminated under vacuum. The residue was purified by flash chromatography on silica gel (petroleum ether/ethyl acetate=95/5) affording 9.14 g of the title compound (97% yield).

reactant | ethyl 3-iodo-4-{[(2E)-4-phenyl-but-2-enyl]-oxy}benzoate | 31.73 mmol, 13.42 g | IC=1C=C(C(=O)OCC)C=CC1OC\C=C\CC1=CC=CC=C1 | C19H19IO3
reactant | AIBN | 3.17 mmol, 0.52 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | benzene | 44.43 mol, 900 ml | C1=CC=CC=C1 | C6H6
product | Ethyl 3-(2-phenylethyl)-2,3-dihydro-1-benzofuran-5-carboxylate | 9.14 g, 97% yield | C1(=CC=CC=C1)CCC1COC2=C1C=C(C=C2)C(=O)OCC | C19H20O3
